US04581452
A solution of DCC (428 mg; 2.1 mmoles) in DMF (1 ml) was added dropwise to a solution of 1-(2-hydroxycarbonyl-3,3,3-trifluoropropyl)-3-methylurea (428 mg; 2.0 mmoles) obtained above in DMF (2 ml). The mixture was stirred for 1 hour, and the precipitated solid was filtered off and washed with ethyl acetate. The solvents were evaporated under reduced pressure from the combined filtrates. The residue was purified by a column chromatography on silica gel (ethyl acetate:chloroform=1:1) to give 368 mg (yield: 94%) of 3-methyl-5-trifluoromethyl-5,6-dihydrouracil (OF-2).

reactant | DCC | 2.1 mmoles, 428 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1-(2-hydroxycarbonyl-3,3,3-trifluoropropyl)-3-methylurea | 2.0 mmoles, 428 mg | OC(=O)C(CNC(=O)NC)C(F)(F)F | C6H9F3N2O3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-methyl-5-trifluoromethyl-5,6-dihydrouracil | 368 mg, yield: 94% | CN1C(NCC(C1=O)C(F)(F)F)=O | C6H7F3N2O2
